US08314098B2
Synthesis of N-(3-isopropyl-benzylidene)-N′-(7-morpholin-4-yl-2-Pyridin-4-yl-pyrazolo[1,5-a]pyrimidin-5-yl)-hydrazine (Compound 145)
There was dissolved, in ethanol (2 mL), (7-morpholin-4-yl-2-pyridin-4-yl-pyrazolo[1,5-a]pyrimidin-5-yl)-hydrazine (30.1 mg, 0.0967 mM), then 3-isopropyl-benzaldehyde (14.3 mg, 0.0967 mM) was added to the solution and the mixture was stirred at room temperature overnight. The solvent was distilled off from this reaction liquid, the resulting residue was purified by the reversed phase HPLC and then subjected to a desalting treatment to thus give the title compound (11.3 mg, yield: 26%).

reactant | (7-morpholin-4-yl-2-pyridin-4-yl-pyrazolo[1,5-a]pyrimidin-5-yl)-hydrazine | 0.0967 mM, 30.1 mg | N1(CCOCC1)C1=CC(=NC=2N1N=C(C2)C2=CC=NC=C2)NN | C15H17N7O
reactant | 3-isopropyl-benzaldehyde | 0.0967 mM, 14.3 mg | C(C)(C)C=1C=C(C=O)C=CC1 | C10H12O
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | N-(3-isopropyl-benzylidene)-N′-(7-morpholin-4-yl-2-Pyridin-4-yl-pyrazolo[1,5-a]pyrimidin-5-yl)-hydrazine | 11.3 mg, yield: 26% | C(C)(C)C=1C=C(C=NNC2=NC=3N(C(=C2)N2CCOCC2)N=C(C3)C3=CC=NC=C3)C=CC1 | C25H27N7O
